US08530486B2
6,7-dichloroquinazolin-2,4(1H,3H)-dione
2-Amino-4,5-dichlorobenzoic acid (920 mg) and urea (2.75 g) were stirred at 160° C. After 6 hours the mixture was cooled to 100° C. and an equivalent volume of water was added while stirring was continued for 5 minutes. The formed precipitate was filtered off and washed with water to yield a solid cake that was suspended in a solution of 0.5 N NaOH in water. The suspension was heated to boil for 5 minutes and then cooled to r.t. The pH was adjusted to about 2 with HCl and the quinazoline-dione was filtered off. After washing with a mixture of water and methanol the product was dried in vacuo to yield 994 mg (94%) of a solid. 1H-NMR (DMSO-δ6) δ (ppm) 7.89 (s, 1H), 7.33 (s, 1H).

reactant | 2-Amino-4,5-dichlorobenzoic acid | 920 mg | NC1=C(C(=O)O)C=C(C(=C1)Cl)Cl | C7H5Cl2NO2
reactant | urea | 2.75 g | NC(=O)N | CH4N2O
reactant | NaOH | 0.5 N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 6,7-dichloroquinazolin-2,4(1H,3H)-dione | 994 mg, 94% | ClC=1C=C2C(NC(NC2=CC1Cl)=O)=O | C8H4Cl2N2O2
